US07514566B2
2-Aminothiazole-4-carbonitrile (1.40 g, 11.18 mmol) was dissolved in 20 mL AcOH in a 150 mL round bottom flask. Br2 (1.78 g, 11.18 mmol) was added to the reaction in a dropwise manner. After stirring at room temperature for 10 minutes, AcOH was removed under vacuum. Saturated sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine and dried over sodium sulfate. 2-amino-5-bromothiazole-4-carbonitrile (1.20 g, yield: 53%) was obtained. LCMS (API-ES) m/z (%): 205.9 (100%, M++2H).

reactant | 2-Aminothiazole-4-carbonitrile | 11.18 mmol, 1.40 g | NC=1SC=C(N1)C#N | C4H3N3S
reactant | Br2 | 11.18 mmol, 1.78 g | BrBr | Br2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-amino-5-bromothiazole-4-carbonitrile | 1.20 g, yield: 53% | NC=1SC(=C(N1)C#N)Br | C4H2BrN3S
